US09120744B2
Ethyl-3-nitrotyrosine hydrochloride.
To a stirring 0° C. solution of 1.07 mL (14.7 mmol) of thionyl chloride in 15 mL of absolute ethanol was added 3-nitro-L-tyrosine (2.00 g, 8.84 mmol). After refluxing for 4 hours, the reaction was cooled and the solvents were removed in vacuo from dichloromethane to afford 2.20 g (97%) of the title compound as a yellow solid.

reactant | thionyl chloride | 14.7 mmol, 1.07 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-nitro-L-tyrosine | 8.84 mmol, 2.00 g | [N+](=O)([O-])C=1C=C(C[C@H](N)C(=O)O)C=CC1O | C9H10N2O5
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | Ethyl-3-nitrotyrosine hydrochloride | 2.20 g, 97% | Cl.C(C)N[C@@H](CC1=CC(=C(C=C1)O)[N+](=O)[O-])C(=O)O | InChI=1S/C11H14N2O5.ClH/c1-2-12-8(11(15)16)5-7-3-4-10(14)9(6-7)13(17)18;/h3-4,6,8,12,14H,2,5H2,1H3,(H,15,16);1H/t8-;/m0./s1
